US08222219B2
Methyl 5-bromo-2-methylbenzoate (see Japanese Unexamined Patent Publication No. 9-263549) (16.12 g) was dissolved in methanol (100 ml), and thereto was added 10% aqueous sodium hydroxide solution (50 ml). The mixture was stirred at 50° C. for 40 minutes. Under ice-cooling, the mixture was adjusted to pH 1 by addition of 10% aqueous hydrochloric acid solution, and diluted with water. Precipitated powder was collected by filtration, and dried to give 5-bromo-2-methylbenzoic acid (14.1 g). ESI-Mass m/Z 213/215 (M−H). (2) The above 5-bromo-2-methylbenzoic acid (10.0 g) was suspended in dichloromethane (100 ml), and thereto were added oxalyl chloride (8.1 ml) and N,N-dimethylformamide (2 drops). The mixture was stirred at room temperature for 4 hours. The solvent was evaporated under reduced pressure to give 5-bromo-2-methylbenzoyl chloride. This benzoyl chloride was dissolved in dichloromethane (200 ml), and thereto was added N,O-dimethylhydroxylamine hydrochloride (12.3 g). To the mixture was added dropwise triethylamine (20 ml) at 0° C., and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure, and the residue was extracted with ethyl acetate, and washed successively with water, 10% aqueous hydrochloric acid solution, water, a saturated aqueous sodium hydrogen carbonate solution, and brine. The extract was dried over sodium sulfate, and the solvent was evaporated under reduced pressure to give N-methoxy-N-methyl-5-bromo-2-methylbenzamide (12.25 g) as oil. APCI-Mass m/Z 258/260 (M+H). (3) A solution of the above N-methoxy-N-methyl-5-bromo-2-methylbenzamide (12.2 g) in tetrahydrofuran (100 ml) was cooled to −78° C. under argon atmosphere. To the mixture was added dropwise diisobutyl aluminum hydride (1.0 M toluene solution, 75 ml), and the mixture was stirred at the same temperature for one hour. 10% aqueous hydrochloric acid solution (50 ml) was added thereto, and the mixture was warmed to room temperature. The mixture was extracted with ethyl acetate twice, and washed successively with a saturated aqueous sodium hydrogen carbonate solution and brine. The extract was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was solidified to give 5-bromo-2-methylbenzaldehyde (8.73 g). APCI-Mass m/Z 213/215 (M+H+MeOH—H2O).

reactant | 5-bromo-2-methylbenzoic acid | 10.0 g | BrC=1C=CC(=C(C(=O)O)C1)C | C8H7BrO2
reactant | oxalyl chloride | 8.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 5-bromo-2-methylbenzoyl chloride | BrC=1C=CC(=C(C(=O)Cl)C1)C | C8H6BrClO
